US08377930B2
To a solution of ethyl 2-hydroxy-2-(quinolin-5-yl)acetate (1.5 g, 6.5 mmol) in anhydrous THF in an oven-dried flask under argon was added iodomethane (1.2 mL, 19.2 mmol) and the mixture was cooled over an ice bath. NaH (60% in oil; 0.26 g, 6.5 mmol) was added and the mixture stirred for 1 hour over ice. After removing the ice bath, stirring was continued for an additional 3.25 hours, and more NaH (60%; 0.030 g, 0.75 mmol) was added. The mixture was stirred for 45 minutes then the reaction was quenched with brine and further diluted with water. The aqueous mixture was extracted with EtOAc and the combined organics were washed with water three times, brine once, dried over Na2SO4 and concentrated in vacuo. Purification by chromatography (50% EtOAc-hexanes) gave ethyl 2-methoxy-2-(quinolin-5-yl)acetate as a yellow oil (0.9 g, 57% yield).

reactant | ethyl 2-hydroxy-2-(quinolin-5-yl)acetate | 6.5 mmol, 1.5 g | OC(C(=O)OCC)C1=C2C=CC=NC2=CC=C1 | C13H13NO3
reactant | iodomethane | 19.2 mmol, 1.2 mL | IC | CH3I
reactant | NaH | 6.5 mmol, 0.26 g | [H-].[Na+]
reactant | NaH | 0.75 mmol, 0.030 g | [H-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | ethyl 2-methoxy-2-(quinolin-5-yl)acetate | 0.9 g, 57% yield | COC(C(=O)OCC)C1=C2C=CC=NC2=CC=C1 | C14H15NO3
